US07964607B2
6-(1-benzylpyrrolidin-3-yl)-1-cyclopentyl-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one
Following the procedure for the preparation of 6-[(3,4-trans)-1-benzyl-4-methylpyrrolidin-3-yl]-1-(2-methoxyphenyl)-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one but substituting 5-amino-1-cyclopentyl-1H-pyrazole-4-carboxamide and methyl 1-benzylpyrrolidine-3-carboxylate provided the title compound. 400 MHz 1H NMR (CDCl3) δ 8.01 (s, 1H), 7.39-7.32 (m, 4H), 7.27-7.23 (m, 1H), 5.12-5.09 (m, 1H), 3.84 (d, J=12.4 Hz, 1H), 3.61 (d, J=12.4 Hz, 1H), 3.30-3.26 (m, 1H), 3.18-3.14 (m, 1H), 3.01 (d, J=9.9 Hz, 1H), 2.45-2.32 (m, 3H), 2.11-1.90 (m, 7H), 1.71-1.65 (m, 2H). MS: (M+H m/z=364.1).

reactant | 5-amino-1-cyclopentyl-1H-pyrazole-4-carboxamide | NC1=C(C=NN1C1CCCC1)C(=O)N | C9H14N4O
reactant | methyl 1-benzylpyrrolidine-3-carboxylate | C(C1=CC=CC=C1)N1CC(CC1)C(=O)OC | C13H17NO2
product | 6-(1-benzylpyrrolidin-3-yl)-1-cyclopentyl-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one | C(C1=CC=CC=C1)N1CC(CC1)C=1NC(C2=C(N1)N(N=C2)C2CCCC2)=O | C21H25N5O
